US07101868B2
5-Chloro-1-methyl-1H-pyrazole-4-carbonyl chloride (1.0 g, 5.6 mmol) was dissolved in CH2Cl2 (100 mL) under N2 and cooled to 0° C. 4-t-Butylaniline was added and the reaction was stirred with gradual warming to RT overnight. The reaction was quenched with saturated NaHCO3(aq) and extracted 3× with fresh CH2Cl2. The CH2Cl2 extracts were washed with brine, combined, dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure giving 5-chloro-1-methyl-1H-pyrazole-4-carboxylic acid (4-tert-butyl-phenyl)-amide as a foamy pink solid.

reactant | 5-Chloro-1-methyl-1H-pyrazole-4-carbonyl chloride | 5.6 mmol, 1.0 g | ClC1=C(C=NN1C)C(=O)Cl | C5H4Cl2N2O
reactant | 4-t-Butylaniline | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-1-methyl-1H-pyrazole-4-carboxylic acid (4-tert-butyl-phenyl)-amide | C(C)(C)(C)C1=CC=C(C=C1)NC(=O)C=1C=NN(C1Cl)C | C15H18ClN3O
